US04883815
0.3 ml of concentrated sulfuric acid is added to a solution of 10.00 g (0.032 mol) of 2-(4-acetamidobutyryl)-5-chlorohydrocinnamic acid in 40 ml of tetrahydrofuran in a steel autoclave and about 60 ml of isobutylene are condensed. The mixture is stirred at room temperature for 30 days. The solution is concentrated, extracted with methylene chloride/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Chromatography with ethyl acetate on aluminum oxide and then on silica gel gives t-butyl 2-(4-acetamidobutyryl)-5-chlorohydrocinnamate as a colorless oil.

reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-acetamidobutyryl)-5-chlorohydrocinnamic acid | 0.032 mol, 10.00 g | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)O)C=C(C=C1)Cl | C15H18ClNO4
reactant | isobutylene | about 60 ml | CC(C)=C | C4H8
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | t-butyl 2-(4-acetamidobutyryl)-5-chlorohydrocinnamate | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)OC(C)(C)C)C=C(C=C1)Cl | C19H26ClNO4
